US08097610B2
Preparation of 2-(1-benzyl-4-pyrrolidine-1-ylpiperidine-4-yl)ethanol
Lithium aluminium hydride (324 mg) was suspended in tetrahydrofuran (25 mL). A solution of (1-benzyl-4-pyrrolidine-1-ylpiperidine-4-yl)acetic acid methyl ester (2.70 g) in tetrahydrofuran (25 mL) was added thereto at 0° C. After stirring at 0° C. for 1 hour, to the reaction solution were sequentially added with water (0.35 mL), 10% aqueous sodium hydroxide (0.35 mL) and water (1.05 mL). The insoluble material was filtrated and the filtrate was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure to give the title compound. The obtained objective substance was provided to the next reaction without further purification.

reactant | Lithium aluminium hydride | 324 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (1-benzyl-4-pyrrolidine-1-ylpiperidine-4-yl)acetic acid methyl ester | 2.70 g | COC(CC1(CCN(CC1)CC1=CC=CC=C1)N1CCCC1)=O | C19H28N2O2
reactant | water | 0.35 mL | O | H2O
reactant | sodium hydroxide | 0.35 mL | [OH-].[Na+]
reactant | water | 1.05 mL | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2-(1-benzyl-4-pyrrolidine-1-ylpiperidine-4-yl)ethanol | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCCC1)CCO | C18H28N2O
